US05167949
b) 2-(4-Acetyl-3-hydroxy-2-propylphenoxy)acetamidine
Obtained using the procedure described in section b of Example 17, starting with 25.0 g (0.0895 mole) of ethyl 2-(4-acetyl-3-hydroxy-2-propylphenoxy)acetimidate and 7.6 g (0.45 mole) of ammonia in 300 ml of absolute ethanol.

reactant | ethyl 2-(4-acetyl-3-hydroxy-2-propylphenoxy)acetimidate | 0.0895 mole, 25.0 g | C(C)(=O)C1=C(C(=C(OCC(OCC)=N)C=C1)CCC)O | C15H21NO4
reactant | ammonia | 0.45 mole, 7.6 g | N | H3N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(4-Acetyl-3-hydroxy-2-propylphenoxy)acetamidine | C(C)(=O)C1=C(C(=C(OCC(=N)N)C=C1)CCC)O | C13H18N2O3
